US07355069B2
Methyl 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate (39 mg, 0.069 mmol) was dissolved in THF/water (2/1, 2 ml) and LiOH (3.3 mg, 0.14 mmol) was added. The reaction was performed I a single node microwave oven (150° C., 7 min). Workup was done by adding EtOAc (10 ml) and washing the organic phase with two potions of HCl (2×5 ml, 1 M). The organic phase was dried (MgSO4) and the solvent was removed by evaporation to give 30 mg of 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)-amino]-3-oxopropyl}phenoxy)methyl]benzoic acid (yield 78.9).

reactant | Methyl 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate | 0.069 mmol, 39 mg | COC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCCCCCC)C=CC=C1OC | C34H43NO6
reactant | LiOH | 0.14 mmol, 3.3 mg | [Li+].[OH-]
reactant | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | THF water | 2 ml | C1CCOC1.O
product | 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)-amino]-3-oxopropyl}phenoxy)methyl]benzoic acid | 30 mg | COC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)O)C=CC=C3)C=C2)=O)CCCCCCC)C=CC=C1OC | C33H41NO6
